US04264614
C. 2-Nitro-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1-(methylthio)ethenamine.
To a solution of 2-nitro-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1-(methylthio)ethenamine oxalate (0.9 g.) in water (20 ml.) was added sodium bicarbonate (3 g.). The suspension was extracted with ethyl acetate (2×20 ml.), the extracts dried (Na2CO3) and evaporated in vacuo to give the title compound (0.65 g.).

reactant | 2-nitro-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1-(methylthio)ethenamine oxalate | 0.9 g | C(C(=O)O)(=O)O.[N+](=O)([O-])C=C(NCCCOC1=CC(=CC=C1)CN1CCCCC1)SC
reactant | sodium bicarbonate | 3 g | C([O-])(O)=O.[Na+]
solvent | water | 20 ml | O | H2O
product | 2-Nitro-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1-(methylthio)ethenamine | 0.65 g | [N+](=O)([O-])C=C(NCCCOC1=CC(=CC=C1)CN1CCCCC1)SC | C18H27N3O3S
